US09024018B2
3-Methyl-8-(5-phenyl-1,3,4-oxadiazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-041)
N′-Benzoyl-3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbohydrazide (0.03 mmol), carbon tetrabromide (0.06 mmol) and triphenylphosphine (0.06 mmol) were stirred in DCM (0.5 mL) for 3 hours. The crude reaction mixture was purified by column chromatography, eluting with 10% MeCN/DCM, to give the title compound. δH (DMSO-d6) 9.06 (1H, s), 8.11 (2H, m), 7.67 (3H, m), 3.93 (3H, s).

reactant | N′-Benzoyl-3-methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbohydrazide | 0.03 mmol | C(C1=CC=CC=C1)(=O)NNC(=O)C=1N=CN2C1N=NN(C2=O)C | C13H11N7O3
reactant | carbon tetrabromide | 0.06 mmol | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.06 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-8-(5-phenyl-1,3,4-oxadiazol-2-yl)imidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | CN1N=NC=2N(C1=O)C=NC2C=2OC(=NN2)C2=CC=CC=C2 | C13H9N7O2
